US04608374
11-{1-[2-(3-Trifluoromethylphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
A mixture of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (6.15 g, 0.023 mole), 2-(3-trifluoromethylphenyl)ethyl menthanesulfonate (7.27 g, 0.027 mole) and K2CO3 (10.6 g) in 125 ml dimethylformamide was heated at 65° C. for 5 hours.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.023 mole, 6.15 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 2-(3-trifluoromethylphenyl)ethyl menthanesulfonate | 0.027 mole, 7.27 g | C1(CC(C(CC1)C(C)C)S(=O)(=O)OCCC1=CC(=CC=C1)C(F)(F)F)C | C19H27F3O3S
reactant | K2CO3 | 10.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 11-{1-[2-(3-Trifluoromethylphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | FC(C=1C=C(C=CC1)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2)(F)F | C26H27F3N2O
